US04865837
To a continuously stirred mixture of 0.156 moles of lithium diisopropylamide in 150 ml of THF cooled at -70° C. was added dropwise a solution of 1-benzyl-1,2,4-triazole prepared above in 200 ml of THF. After the mixture was stirred for one hour longer, there was added in one portion 16.5 ml of dry dimethylformamide. The mixture was stirred in the cold for 0.5 hour and then at room temperature for 3.5 hours whereupon there was added dropwise a saturated aqueous solution of 21.5 grams of sodium dihydrogenphosphate. After the mixture was extracted well with dichloromethane, the combined extracts were washed with saturated brine, dried over magnesium sulfate, filtered, and evaporated to give a crude product. The crude product was flash column chromatographed over silica gel and eluted with dichloromethane/ethyl acetate (2:1) to provide 24.6 grams of pure 1-benzyl-3-formyl-1,2,4-triazole as a colorless oil.

reactant | lithium diisopropylamide | 0.156 moles | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-benzyl-1,2,4-triazole | C(C1=CC=CC=C1)N1N=CN=C1 | C9H9N3
reactant | sodium dihydrogenphosphate | 21.5 grams | P(=O)(O)(O)[O-].[Na+]
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
solvent | dimethylformamide | 16.5 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-3-formyl-1,2,4-triazole | 24.6 grams | C(C1=CC=CC=C1)N1N=C(N=C1)C=O | C10H9N3O
